US05405861
In ethanol (30 ml) was dissolved 1-(2-chloroethyl)imidazole, to which were added 1,2-ethanedithiol (25 ml) and sodium methoxide (28% methanol solution) (16.6 ml), and the mixture was heated for 30 minutes under reflux. Insoluble substances were filtered off, and the filtrate was concentrated under reduced pressure. To the concentrate was added dichloromethane (300 ml). The organic layer was washed with water, then with a saturated aqueous sodium chloride solution, followed by drying (sodium sulfate). The solvent was distilled off, and the residue was subjected to a silica gel column chromatography (3.0×40 cm:ethyl acetate→ethyl acetate:methanol=10:1) to give 2-[2-(1 -imidazolyl)ethylthio]ethanethiol (3.0 g) as a pale yellow oily substance.

reactant | 1,2-ethanedithiol | 25 ml | C(CS)S | C2H6S2
reactant | sodium methoxide | 16.6 ml | C[O-].[Na+]
reactant | 1-(2-chloroethyl)imidazole | ClCCN1C=NC=C1 | C5H7ClN2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-[2-(1 -imidazolyl)ethylthio]ethanethiol | 3.0 g | N1(C=NC=C1)CCSCCS | C7H12N2S2
